2139-10-16 07:40:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
   Admitted overnight
   Placed on BiPap for acute on chronic respiratory acidosis
   NIFs stable
   Additional history obtained now that patient is more comfortable.
   Been c/o loose stools/diarrhea for several weeks.
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-15**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2139-10-16**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 93 (91 - 124) bpm
   BP: 110/53(67) {88/52(60) - 127/81(92)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                    128 mL
                                                                    100 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     28 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    100 mL
   Urine:
                                                                    100 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     28 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 598 (344 - 598) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: 7.33/65/166/35/6
   NIF: -80 cmH2O
   Ve: 5.6 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : upper airway wheeze)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   350 K/uL
   13.1 g/dL
   116 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.8 mEq/L
   10 mg/dL
   99 mEq/L
   138 mEq/L
   38.8 %
   14.5 K/uL
        [image002.jpg]
                            [**2139-10-15**]  08:42 PM
                            [**2139-10-15**]  08:57 PM
                            [**2139-10-16**]  03:50 AM
                                     8pm
                                     MN
                                     4am
   WBC
   16.3
   14.5
   NIF
   -60
   -80
   -80
   Hct
   37.5
   38.8
   VC
   0.3
   0.5
   0.6
   Plt
   298
   350
   Cr
   0.7
   0.7
   TCO2
   36
   Glucose
   128
   116
   Other labs: PT / PTT / INR:13.4/25.0/1.1, Differential-Neuts:90.2 %,
   Lymph:6.1 %, Mono:2.9 %, Eos:0.7 %, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR
   Assessment and Plan
   54 yo woman with [**First Name9 (NamePattern2) **] [**Last Name (un) 3383**] on cellcept, mestinon, and
   prednisone, GERD, anxiety, admitted to MICU for respiratory distress
   following extubation for Y-stent replacement. DDx for resp failure
   includes hypercarbia, hypoventilation from MG, or aspiration process
   # Respiratory Failure:
   -          NIFS stable with low VC that is steadily increasing
   -          Discontinue BiPap, tachycardia resolved, O2 sat in low 90s
   and stable.
   -          Note: Difficult airway, in the past  has been intubated
   using fiberscopic guidance.
   -          CXR today without infiltrate
   -          Repeat ABG
   #) Myasthenia [**Last Name (un) **]
   -          Neurology consulted for possibility of MG component to
   respiratory status. Appreciate their thoughts and suggestions.
   -          Sending urine and sputum for eval/culture, check c. diff
   -          cont prednisone to 20 mg [**Hospital1 **]
   -          Continue mestinone to 60 Q4h
   -          continue cell-cept 1000mg PO BID
   #) TBM
   -          s/p Y stent, IP to follow as consult service
   #) Diarrhea
   -          check c.diff toxin; defer empiric treatment for now
   # Anxiety/panic d/o
   -          cont paxil 15 mg daily
   # DM: follow FSG, RISS
   #FEN:
   -          replete lytes PRN.
   -          NPO for now given possibility of intubation but if status
   improves can trial POs.
   #ACCESS:  PIV
   #PPx: Heparin sub-q for DVT prophylaxis, bowel regimen, ppi, ssi, vit
   D, calcium,  fosamax.
   #COMMUNICATION: Patient, sons: [**Name (NI) 6121**], HCP ([**Telephone/Fax (1) 6122**], [**Doctor Last Name 6123**]
   (other son) ? [**0-0-**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-15**] 06:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-10-17 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.        ABG: 7.33/65/166 ---- 7.30/77/94; 7.31/75/76; 7.36/68/90
   2.        Neuro: does not think it
s MG
   3.        Put on 2 hour BiPap trial, which was tolerated well. Bipap
   removed and RA ABG: 7.36/67/50
   4.        PM NIF: 72, VC 580
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-16**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-17**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 118 (80 - 118) bpm
   BP: 128/77(87) {91/49(60) - 142/80(92)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,040 mL
                                                                    480 mL
   PO:
                                                                  1,040 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: 7.36/68/90.[**Numeric Identifier 128**]/40/9
   NIF: -72 cmH2O
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   12.1 g/dL
   132 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.4 mEq/L
   12 mg/dL
   98 mEq/L
   142 mEq/L
   38.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2139-10-15**]  08:42 PM
                            [**2139-10-15**]  08:57 PM
                            [**2139-10-16**]  03:50 AM
                            [**2139-10-16**]  10:51 AM
                            [**2139-10-16**]  02:14 PM
                            [**2139-10-16**]  05:40 PM
                            [**2139-10-16**]  09:25 PM
                            [**2139-10-17**]  05:49 AM
   WBC
   16.3
   14.5
   8.8
   Hct
   37.5
   38.8
   38.1
   Plt
   298
   350
   274
   Cr
   0.7
   0.7
   0.7
   TCO2
   36
   39
   40
   39
   40
   Glucose
   128
   116
   132
   Other labs: PT / PTT / INR:12.4/23.8/1.0, Differential-Neuts:90.2 %,
   Lymph:6.1 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HEADACHE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   54 yo woman with [**First Name9 (NamePattern2) **] [**Last Name (un) 3383**] on cellcept, mestinon, and
   prednisone, GERD, anxiety, admitted to MICU for respiratory distress
   following extubation for Y-stent replacement. DDx for resp failure
   includes hypercarbia, hypoventilation from MG, or aspiration process
   # Respiratory Failure:  Previous PFT
s show  neuromuscular component to
   her respiratory failure. NIFs improved overnight, still hypercarbic,
   and still with headache, likely from hypercarbia.  MG is often
   exacerbated by anesthesia.   Will continue with BiPAP as needed during
   the day and continuous overnight.   Will repeat ABG later in the day.
   -          NIFS stable with low VC that is steadily increasing
   -          BiPAP overnight and prn.
   -          Repeat ABG
    #) Myasthenia [**Last Name (un) **]
   -          Neurology consulted for possibility of MG component to
   respiratory status. Appreciate their thoughts and suggestions.
   -          Sending urine and sputum for eval/culture, check c. diff
   -          cont prednisone to 20 mg [**Hospital1 **]
   -          Continue mestinone to 60 Q4h
   -          continue cell-cept 1000mg PO BID
   .
   #) TBM
   -          s/p Y stent, IP to follow as consult service
   #) Diarrhea
   -          check c.diff toxin; defer empiric treatment for now
    # Anxiety/panic d/o
   -          cont paxil 15 mg daily
   .
   # DM: follow FSG, RISS
    #FEN:
   -          replete lytes PRN.
   #ACCESS:  PIV
   #PPx: Heparin sub-q for DVT prophylaxis, bowel regimen, ppi, ssi, vit
   D, calcium,  fosamax.
   .
   #COMMUNICATION: Patient, sons: [**Name (NI) 6121**], HCP ([**Telephone/Fax (1) 6122**], [**Doctor Last Name 6123**]
   (other son) ? [**0-0-**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-10-15**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2139-10-17 11:38:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure, tracheobronchomalacia
   HPI:
   55F with Myasthenia, TBM who went to OR for rigid bronch with Y-stent
   placement [**10-15**].  Post-op extubaetd but then hypoxic, felt to be from
   resp muscle weakness from MG as she had not taken her pyridostig yest.
   Placed on BiPAP and in MICU now.  ABG shows acute on chronic resp
   acidosis.  Trial off BIPAP this AM but PCO2 in 70s so put back on.
   Neuro consulted.  They suggested looking for underlying infection as
   potential cause of worsening MG so cultured, Cdiff (diarrhea) but
   nothing evident yet.  If not better tomorrow, will Ct chest to eval
   lung parenchyma.
   24 Hour Events:
   -had resp distress, 7.31/75/76, placed on BiPAP
   -had HA overnight, given tylenol
   -NIF of -72
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-17**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 95 (80 - 118) bpm
   BP: 144/77(93) {91/49(60) - 152/82(94)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,040 mL
                                                                    680 mL
   PO:
                                                                  1,040 mL
                                                                    680 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    400 mL
                                                                    300 mL
   Urine:
                                                                    400 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    640 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.36/68/90.[**Numeric Identifier 128**]/40/9
   NIF: -72 cmH2O
   Physical Examination
   General Appearance: Well nourished, mild respiratory distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   slightly dimineshed
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   274 K/uL
   132 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.4 mEq/L
   12 mg/dL
   98 mEq/L
   142 mEq/L
   38.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2139-10-15**]  08:42 PM
                            [**2139-10-15**]  08:57 PM
                            [**2139-10-16**]  03:50 AM
                            [**2139-10-16**]  10:51 AM
                            [**2139-10-16**]  02:14 PM
                            [**2139-10-16**]  05:40 PM
                            [**2139-10-16**]  09:25 PM
                            [**2139-10-17**]  05:49 AM
   WBC
   16.3
   14.5
   8.8
   Hct
   37.5
   38.8
   38.1
   Plt
   298
   350
   274
   Cr
   0.7
   0.7
   0.7
   TCO2
   36
   39
   40
   39
   40
   Glucose
   128
   116
   132
   Other labs: PT / PTT / INR:12.4/23.8/1.0, Differential-Neuts:90.2 %,
   Lymph:6.1 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HEADACHE
   -nasal saline for possible sinus HA
   -likely CO2 effect
   -BiPAP 15/5 at night and prn during day
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -suspect some worsening of myasthenia from missing pyridostigmine, vs
   anesthesia affects
   -pyridostigmine, prednisone, cellcept
   -neurology following, feel myasthenia is unlikely contributor
   -PFTs c/w respiratory muscle weakness
   Tracheobronchomalacia
   -Y stent placed
   -IP following
   DM2: sliding scale insulin
   ppx: hep sc, PPI, bowel reg
   Access: PIV
   Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-10-15**] 06:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2139-10-17**] 16:27 ------

2139-10-18 12:04:00 Physician Resident Progress Note
Chief Complaint: Hypercarbia
   24 Hour Events:
   Stayed in MICU for hypercarbia
   Continues to complain of  headache
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-18**] 09:00 AM
   Other medications:
   Cellcept, mestinon, prednisone at home doses continues
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: diplopia
   Pain location: headache
   Flowsheet Data as of  [**2139-10-18**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 131 (83 - 149) bpm
   BP: 129/71(83) {102/59(68) - 150/94(108)} mmHg
   RR: 24 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  1,630 mL
                                                                    700 mL
   PO:
                                                                  1,630 mL
                                                                    700 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    700 mL
   Urine:
                                                                  1,200 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   NIF: -80 cmH2O
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: ptosis L>R
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed,
   CN II-XII Grossly intact with note of ptosis. EOM Full
   Labs / Radiology
   297 K/uL
   12.8 g/dL
   141 mg/dL
   0.7 mg/dL
   39 mEq/L
   3.8 mEq/L
   8 mg/dL
   96 mEq/L
   141 mEq/L
   41.2 %
   8.5 K/uL
        [image002.jpg]
                            [**2139-10-15**]  08:42 PM
                            [**2139-10-15**]  08:57 PM
                            [**2139-10-16**]  03:50 AM
                            [**2139-10-16**]  10:51 AM
                            [**2139-10-16**]  02:14 PM
                            [**2139-10-16**]  05:40 PM
                            [**2139-10-16**]  09:25 PM
                            [**2139-10-17**]  05:49 AM
                            [**2139-10-18**]  05:09 AM
   WBC
   16.3
   14.5
   8.8
   8.5
   Hct
   37.5
   38.8
   38.1
   41.2
   Plt
   298
   350
   274
   297
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   36
   39
   40
   39
   40
   Glucose
   128
   116
   132
   141
   Other labs: PT / PTT / INR:13.4/24.0/1.1, Differential-Neuts:90.2 %,
   Lymph:6.1 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: [**10-16**]: small r effusion
   Microbiology: C. diff neg x1
   Assessment and Plan
   54 yo woman with [**First Name9 (NamePattern2) **] [**Last Name (un) 3383**] on cellcept, mestinon, and
   prednisone, GERD, anxiety, admitted to MICU for respiratory distress
   following extubation for Y-stent replacement. DDx for resp failure
   includes hypercarbia, hypoventilation from MG, or aspiration process
   # Respiratory Failure:  Previous PFT
s show  neuromuscular component to
   her respiratory failure. NIFs improved overnight, still hypercarbic,
   and still with headache, likely from hypercarbia.  MG is often
   exacerbated by anesthesia.
   -          NIFS stable with low VC that is steadily increasing
   -          BiPAP overnight and prn. - patient refused bipap overnight
   last night but discussed with patient need
   -          Repeat ABG today
   -          Repeat CXR tomorrow
    #) Myasthenia [**Last Name (un) **]
   -          Appreciate neuro following
   -          Sending urine and sputum for eval/culture, check c. diff
   -          cont prednisone to 20 mg [**Hospital1 **]
   -          Continue mestinone to 60 Q4h
   -          continue cell-cept 1000mg PO BID
   #) Headache
   -          Initially thought to be part of general anesthesia, but
   certainly could be hypercapnia. Try bipap for improvement. can continue
   tylenol.
   #) TBM
   -          s/p Y stent, IP to follow as consult service
   #) Tachycardia
   - sinus tach, repeat ECG today. Keep even
   #) Diarrhea
   -          check c.diff toxin; defer empiric treatment for now
    # Anxiety/panic d/o
   -          cont paxil 15 mg daily
   # DM: follow FSG, RISS
    #FEN:
   -          replete lytes PRN.
   #ACCESS:  PIV
   #PPx: Heparin sub-q for DVT prophylaxis, bowel regimen, ppi, ssi, vit
   D, calcium,  fosamax.
   #COMMUNICATION: Patient, sons: [**Name (NI) 6121**], HCP ([**Telephone/Fax (1) 6122**], [**Doctor Last Name 6123**]
   (other son) ? [**0-0-**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-10-15**] 06:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2139-10-18 12:04:00 Physician Attending Progress Note
Chief Complaint: Myasthenia [**Last Name (un) 3383**], Tracheobronchomalacia, Hypercarbic
   respiratory failure
   HPI:
   55F with Myasthenia, TBM who went to OR for rigid bronch with Y-stent
   placement [**10-15**].  Post-op extubaetd but then hypoxic, felt to be from
   resp muscle weakness from MG as she had not taken her pyridostig yest.
   Placed on BiPAP and in MICU now.  ABG shows acute on chronic resp
   acidosis.  Trial off BIPAP this AM but PCO2 in 70s so put back on.
   Neuro consulted.  They suggested looking for underlying infection as
   potential cause of worsening MG so cultured, Cdiff (diarrhea) but
   nothing evident yet.
   24 Hour Events:
   -refused BiPAP overnight
   -still having HA this am
   -complaining of double vision
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-18**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-18**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 131 (83 - 149) bpm
   BP: 129/71(83) {102/59(68) - 150/94(108)} mmHg
   RR: 24 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  1,630 mL
                                                                    700 mL
   PO:
                                                                  1,630 mL
                                                                    700 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    700 mL
   Urine:
                                                                  1,200 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   NIF: -80 cmH2O
   Physical Examination
   General Appearance: Well nourished, No acute distress, drowsy
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, date, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   297 K/uL
   141 mg/dL
   0.7 mg/dL
   39 mEq/L
   3.8 mEq/L
   8 mg/dL
   96 mEq/L
   141 mEq/L
   41.2 %
   8.5 K/uL
        [image002.jpg]
                            [**2139-10-15**]  08:42 PM
                            [**2139-10-15**]  08:57 PM
                            [**2139-10-16**]  03:50 AM
                            [**2139-10-16**]  10:51 AM
                            [**2139-10-16**]  02:14 PM
                            [**2139-10-16**]  05:40 PM
                            [**2139-10-16**]  09:25 PM
                            [**2139-10-17**]  05:49 AM
                            [**2139-10-18**]  05:09 AM
   WBC
   16.3
   14.5
   8.8
   8.5
   Hct
   37.5
   38.8
   38.1
   41.2
   Plt
   298
   350
   274
   297
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   36
   39
   40
   39
   40
   Glucose
   128
   116
   132
   141
   Other labs: PT / PTT / INR:13.4/24.0/1.1, Differential-Neuts:90.2 %,
   Lymph:6.1 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HEADACHE: suspect [**1-24**] hypercarbia
   -BiPAP hs
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Hypercarbia [**1-24**]
   musculoskeletal weakness
   -BiPAP at night 15/5, may need [**Last Name (un) **] BiPAP at ngiht as well
   Tracheobronchomalacia: s/p Y stent
   -touch base w IP
   Myasthenia:
   -touch base w neuro Monday
   -cont. prenisone/cellcept/pyridostigmine
   Tachycardia: sinus, unclear cause
   -check ECG
   ppx: eating, OOB
   Access: PIV
   Full Code
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-10-15**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Patient seen and examined; agree with findings and plan of Dr. [**First Name (STitle) 3648**].
   55 year old female with Myasthenia [**Last Name (un) **] and tracheobronchomalacia
   with acute on chronic hypercarbia and respiratory distress following
   Y-stent placement. She would not use BiPAP overnight and her recent
   blood gas shows pCO2 increasing to ~80
s, though suspect a chronic
   component based on persistently high serum HCO3
s.  She seems amenable
   to resuming BiPAP though is claustrophobic, will initiate during day
   given rising PCO2
   Pt critically ill
   Total time spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2139-10-18**] 15:19 ------

2139-10-19 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.held in unit secondary to continued hypercarbia and headache.
   2.tried BiPap overnight  but she won't keep it on
   3. gave add'l 20mg prednisone for diplopia
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-18**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-19**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 111 (83 - 161) bpm
   BP: 140/79(94) {90/61(68) - 163/98(112)} mmHg
   RR: 21 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  1,100 mL
                  PO:
                                                                  1,100 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    600 mL
   Urine:
                                                                  1,450 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.33/82.[**Numeric Identifier 96**]/60/40/13
   NIF: -80 cmH2O
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   12.2 g/dL
   246 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.4 mEq/L
   7 mg/dL
   95 mEq/L
   139 mEq/L
   39.1 %
   8.5 K/uL
        [image002.jpg]
                            [**2139-10-16**]  03:50 AM
                            [**2139-10-16**]  10:51 AM
                            [**2139-10-16**]  02:14 PM
                            [**2139-10-16**]  05:40 PM
                            [**2139-10-16**]  09:25 PM
                            [**2139-10-17**]  05:49 AM
                            [**2139-10-18**]  05:09 AM
                            [**2139-10-18**]  02:56 PM
                            [**2139-10-19**]  04:55 AM
                            [**2139-10-19**]  05:00 AM
   WBC
   14.5
   8.8
   8.5
   8.5
   Hct
   38.8
   38.1
   41.2
   39.1
   Plt
   350
   274
   297
   286
   Cr
   0.7
   0.7
   0.7
   0.8
   TCO2
   39
   40
   39
   40
   45
   46
   Glucose
   116
   132
   141
   246
   Other labs: PT / PTT / INR:13.4/24.0/1.1, Differential-Neuts:90.2 %,
   Lymph:6.1 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   54 yo woman with [**First Name9 (NamePattern2) **] [**Last Name (un) 3383**] on cellcept, mestinon, and
   prednisone, GERD, anxiety, admitted to MICU for respiratory distress
   following extubation for Y-stent replacement. DDx for resp failure
   includes hypercarbia, hypoventilation from MG, or aspiration process
    # Respiratory Failure:  Previous PFT
s show  neuromuscular component
   to her respiratory failure. NIFs improved overnight, still hypercarbic,
   and still with headache, likely from hypercarbia.  MG is often
   exacerbated by anesthesia.
   -          NIFS stable with low VC that is steadily increasing
   -          BiPAP overnight and prn. - patient refused bipap overnight
   last night but discussed with patient need
   -          Repeat ABG today
   -          Repeat CXR tomorrow
    #) Myasthenia [**Last Name (un) **]
   -          Appreciate neuro following
   -          Sending urine and sputum for eval/culture, check c. diff
   -          cont prednisone to 20 mg [**Hospital1 **]
   -          Continue mestinone to 60 Q4h
   -          continue cell-cept 1000mg PO BID
   #) Headache
   -          Initially thought to be part of general anesthesia, but
   certainly could be hypercapnia. Try bipap for improvement. can continue
   tylenol.
   #) TBM
   -          s/p Y stent, IP to follow as consult service
   #) Tachycardia
   - sinus tach, repeat ECG today. Keep even
   #) Diarrhea
   -          check c.diff toxin; defer empiric treatment for now
    # Anxiety/panic d/o
   -          cont paxil 15 mg daily
   # DM: follow FSG, RISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-10-15**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2139-10-20 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ABG on floor: 7.38/77/59
   ABG in ICU: 7.41/72/66
   Given nebs, oxycodone, lasix
 put out ~800 fluid and felt better
   Allergies:
   Adhesive Tape (Topical)
   scars skin;
   Ativan (Oral) (Lorazepam)
   restlessness
   i
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-10-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-10-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-10-19**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-10-20**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 85 (76 - 133) bpm
   BP: 139/88(98) {136/70(87) - 162/96(108)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    520 mL
                                                                    200 mL
   PO:
                                                                    320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    625 mL
   Urine:
                                                                  1,400 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -880 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.42/75/123/47/20
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   257 K/uL
   12.1 g/dL
   139 mg/dL
   0.7 mg/dL
   47 mEq/L
   3.1 mEq/L
   10 mg/dL
   94 mEq/L
   145 mEq/L
   37.3 %
   9.1 K/uL
        [image002.jpg]
                            [**2139-10-16**]  05:40 PM
                            [**2139-10-16**]  09:25 PM
                            [**2139-10-17**]  05:49 AM
                            [**2139-10-18**]  05:09 AM
                            [**2139-10-18**]  02:56 PM
                            [**2139-10-19**]  04:55 AM
                            [**2139-10-19**]  05:00 AM
                            [**2139-10-20**]  01:13 AM
                            [**2139-10-20**]  05:00 AM
                            [**2139-10-20**]  07:14 AM
   WBC
   8.8
   8.5
   8.5
   9.1
   Hct
   38.1
   41.2
   39.1
   37.3
   Plt
   274
   297
   286
   257
   Cr
   0.7
   0.7
   0.8
   0.7
   TCO2
   39
   40
   45
   46
   47
   50
   Glucose
   132
   141
   246
   139
   Other labs: PT / PTT / INR:12.9/23.6/1.1, Differential-Neuts:90.2 %,
   Lymph:6.1 %, Mono:2.9 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   54 yo woman with [**First Name9 (NamePattern2) **] [**Last Name (un) 3383**] on cellcept, mestinon, and
   prednisone, GERD, anxiety, recently admitted to MICU for respiratory
   distress following extubation for Y-stent replacement, and transferred
   to floor on [**2139-10-19**].   Patient returned to the MICU after experiencing
   respiratory distress on the floor.
    # Respiratory Failure:  On the floor with an improved gas.  Patient
   with tachypnea and working to breath.  CXR unrevealing.  She was given
   atrovent nebs, xopenex nebs, oxycodone and lasix.  She has large UO
   from the lasix and this appeared to ease her breathing.  Likely flash
   pulmonary edema in setting of hypertension. (170/100).  Possible
   anxiety component as well.
   -  ABG this am: 7.42/75/123
   - Encourage BiPAP
   - CXR in am
   - Continue to treat empirically for HAP with Vanc/Zosyn
   - Acetylcysteine and Saline nebs
   Tachycardia: patient with tachycardia with sudden asymptomatic
   increased in heart rate from 90
s to 130
   - Will start low dose short acting Dilt
   From prior MICU stay
   Previous PFT
s show  neuromuscular component to her respiratory
   failure. NIFs improved overnight, still hypercarbic, and still with
   headache, likely from hypercarbia.  MG is often exacerbated by
   anesthesia.
   -  NIFS stable with low VC that is steadily increasing
    #) Myasthenia [**Last Name (un) **]
   -Appreciate neuro following
   -cont prednisone to 20 mg [**Hospital1 **]
   -Continue mestinone to 60 Q4h
   -continue cell-cept 1000mg PO BID
   -  Bactrim for PCP [**Name Initial (PRE) 1374**]
   #) Headache: does not appear to be a problem at this point
   -Initially thought to be part of general anesthesia, but certainly
   could be hypercapnia. Try bipap for improvement. can continue tylenol.
   #) TBM
   -s/p Y stent, IP to follow as consult service
   #) Diarrhea
   -check c.diff toxin;
    # Anxiety/panic d/o
   -cont paxil 15 mg daily
   # DM: follow FSG, RISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2139-10-19**] 11:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: will call out to floor